US09328106B2
A mixture of 1-tert-butyl 3-methyl 2-(1-methyl-4-nitro-1H-pyrazol-5-yl)malonate (6.92 g, 23.1 mmol) and formic acid (100 mL) was heated at 50° C. for 5 hours before being cooled to room temperature. Formic acid was removed under reduced pressure; the residue was diluted with brine and extracted with DCM 3×. The combined organics were dried (MgSO4) and the solvent removed under reduced pressure. The residue was purified via silica gel chromatography (0-60% EtOAc/heptane) to afford methyl 2-(2-methyl-4-nitro-pyrazol-3-yl)acetate (4.15 g, 90%).

reactant | 1-tert-butyl 3-methyl 2-(1-methyl-4-nitro-1H-pyrazol-5-yl)malonate | 23.1 mmol, 6.92 g | CN1N=CC(=C1C(C(=O)OC(C)(C)C)C(=O)OC)[N+](=O)[O-] | C12H17N3O6
solvent | formic acid | 100 mL | C(=O)O | CH2O2
product | methyl 2-(2-methyl-4-nitro-pyrazol-3-yl)acetate | 4.15 g, 90% | CN1N=CC(=C1CC(=O)OC)[N+](=O)[O-] | C7H9N3O4
